US05428158
Cool lithium hexamethyldisilazane (6 mL of a 1.0M solution in tetrahydrofuran, 6.0 mmol) to -78° C. Add, by cannula transfer, a solution of 1-(carboethoxy)-1-(4-methoxybenzylthio)methane (1.36 g, 5.66 mmol) in tetrahydrofuran (10 mL). Stir for 45 minutes, add 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (DMPU) (0.73 mL, 6.0 mmol) followed by 1-bromo-2-chloroethane (050 mL, 6.0 mmol) and stir to room temperature overnight. Cool to -78° C., add lithium hexamethyldisilazane (6.0 mL, 6.0 mmol) and stir at room temperature for 24 hours. Quench with saturated ammonium chloride (5 mL) and partition between ethyl acetate (30 mL) and water (30 mL). Separate the organic phase, dry (Na2SO4) and evaporate the solvent in vacuo. Purify by chromatography (5:1 hexane/ethyl acetate to 2.5:1 hexane/ethyl acetate) to give 1-(carboethoxy)-1-(4-methoxybenzylthio)cyclopropane (317 mg, 21%).

reactant | lithium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | 1-(carboethoxy)-1-(4-methoxybenzylthio)methane | 5.66 mmol, 1.36 g | C(=O)(OCC)CSCC1=CC=C(C=C1)OC | C12H16O3S
reactant | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 6.0 mmol, 0.73 mL | CN1C(N(CCC1)C)=O | C6H12N2O
reactant | 1-bromo-2-chloroethane | 6.0 mmol | BrCCCl | C2H4BrCl
reactant | lithium hexamethyldisilazane | 6.0 mmol, 6.0 mL | C[Si](N[Si](C)(C)C)(C)C.[Li]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-(carboethoxy)-1-(4-methoxybenzylthio)cyclopropane | 317 mg, 21% | C(=O)(OCC)C1(CC1)SCC1=CC=C(C=C1)OC | C14H18O3S
